US04409214
To a suspension of 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetic acid (syn isomer)(2.23 g) in methylene chloride (70 ml) was added phosphorus oxychloride (7.2 g), followed by stirring at ambient temperature for 45 minutes. Thereto was added N,N-dimethylformamide (4.4 g) at -10° C., and the mixture was stirred at -10° to 0° C. for an hour to prepare the activated acid solution. This solution was added to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (4.7 g) and trimethylsilylacetamide (8.6 g) in ethyl acetate (50 ml) at -20° C., and the mixture was stirred at -20° to 0° C. for an hour. After ethyl acetate (200 ml) and water (200 ml) were added to the reaction mixture, the ethyl acetate layer was separated out, washed with a saturated aqueous sodium bicarbonate and an aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was chromatographed on silica gel eluting with a mixed solvent of ethyl acetate and benzene (6:4 by volume). Fractions containing a desired compound firstly eluted were collected and evaporated to obtain benzhydryl 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer)(2.4 g).

reactant | 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetic acid | 2.23 g | NC1=NC(=NO1)C(C(=O)O)=NOC | C5H6N4O4
reactant | phosphorus oxychloride | 7.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 4.7 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 8.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 4.4 g | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.4 g | NC1=NC(=NO1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C27H24N6O6S
